US08044041B2
A mixture of 1,4-di-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (0.15 g, 0.264 mmol), 2N NaOH (1.32 mL, 2.64 mmol) and dioxane (3 mL) was stirred at 50° C. for 16 h. The reaction mixture was diluted with water, acidified with conc. HCl to ˜pH 4 and extracted with EtOAc (×3). The combined organic phase was washed with brine, dried (Na2SO4) and concentrated to afford 1-iodo-4-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (27 mg), 1H NMR (600 MHz, CDCl3) δ: 7.20 (d, 1H), 7.31 (t, 1H), 7.72 (d, 1H), 7.96 (d, 1H), 8.00 (s, 1H), 8.33 (dd, 1H), 8.86 (s, 1H), 10.40 (s, 1H), 12.39 (s, 1H) ppm. m/z 460.07; and 4-iodo-1-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (27 mg), 1H NMR (500 MHz, CDCl3) δ: 7.27 (d, 1H), 7.38 (t, 1H), 8.00 (m, 2H), 8.24 (m, 2H), 8.30 (d, 1H), 10.32 (s, 1H), 12.34 (s, 1H) ppm. m/z 460.07.

reactant | 1,4-di-iodo-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.264 mmol, 0.15 g | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)I)I)(F)F | C16H8F3I2N3O
reactant | NaOH | 2.64 mmol, 2N, 1.32 mL | [OH-].[Na+]
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-iodo-4-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 27 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)I)O)(F)F | C16H9F3IN3O2
